US04910201
Synthesis of 2-(4-chlorophenyl)-5-{(6-chloro-3-pyridyl)-methoxy}-4-iodo-3(2H)-pyridazinone (Compound No. 831)
The procedures in Synthesis Example 2 were repeated by using 3.3 g (7.2 m mol) of 2-(4-chlorophenyl)-4,5-diiodo-3(2H)-pyridazinone, 1.1 g (7.7 m mol) of 6-chloro-3-pyridine-methanol, 0.4 g of potassium hydroxide and 80 ml of N,N-dimethylformamide to give 2.1 g of the intended product. (recrystallized from benzene)

reactant | 2-(4-chlorophenyl)-4,5-diiodo-3(2H)-pyridazinone | 3.3 g | ClC1=CC=C(C=C1)N1N=CC(=C(C1=O)I)I | C10H5ClI2N2O
reactant | 6-chloro-3-pyridine-methanol | 1.1 g | ClC1=CC=C(C=N1)CO | C6H6ClNO
reactant | potassium hydroxide | 0.4 g | [OH-].[K+]
solvent | N,N-dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
product | 2-(4-chlorophenyl)-5-{(6-chloro-3-pyridyl)-methoxy}-4-iodo-3(2H)-pyridazinone | 2.1 g | ClC1=CC=C(C=C1)N1N=CC(=C(C1=O)I)OCC=1C=NC(=CC1)Cl | C16H10Cl2IN3O2
